US04891372
7-Amino-3-[2-(4-amino-3-methylphenoxy)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine
3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (0.5 g) was stirred at room temperature under a hydrogen atmosphere [344.7 kPa (50 p.s.i.)]in ethyl acetate (20 ml) and methanol (20 ml) containing 5% Pd/C (0.075 g) for 3 hours. The catalyst was then removed by filtration and the filtrate was evaporated in vacuo to give the title compound as an oil, yield 0.385 g, which was used directly without further purification.

reactant | 3-[2-(4-Amino-3-methylphenoxy)ethyl]-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.5 g | NC1=C(C=C(OCCN2CCC3=C(CC2)C=CC(=C3)[N+](=O)[O-])C=C1)C | C19H23N3O3
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.075 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 7-Amino-3-[2-(4-amino-3-methylphenoxy)ethyl]-1,2,4,5-tetrahydro-3H-3-benzazepine | NC1=CC2=C(CCN(CC2)CCOC2=CC(=C(C=C2)N)C)C=C1 | C19H25N3O
